US05017595
12 g of sodium hydroxide are added to a solution of 70 g of triazole in 300 ml of N-methylpyrrolidone and the mixture is heated for 30 minutes at 50° C. Thereafter, 73 g of 2-(4-chlorophenyl)-2-(1-methyl-2-[2-chlorophenyl]-ethenyl)-oxirane, dissolved in 100 ml of N-methylpyrrolidone, are slowly added dropwise at room temperature. The reaction mixture is stirred for 15 hours at room temperature after which 300 ml of water are added to the solution and the mixture is extracted several times by shaking with methyl tert-butyl ether. The organic phase isolated is washed twice with water and then dried over sodium sulfate and evaporated down. Crystallization of the residue from methyl tert-butyl ether/n-hexane gives 85 g (95%) of 1-(1,2,4-triazol-1-ylmethyl)-1-(4-chlorophenyl)-2-methyl-3-(2-chlorophenyl)-propenol of melting point 141°-143° C.

reactant | sodium hydroxide | 12 g | [OH-].[Na+]
reactant | triazole | 70 g | N1N=NC=C1 | C2H3N3
reactant | 2-(4-chlorophenyl)-2-(1-methyl-2-[2-chlorophenyl]-ethenyl)-oxirane | 73 g | ClC1=CC=C(C=C1)C1(OC1)C(=CC1=C(C=CC=C1)Cl)C | C17H14Cl2O
reactant | water | 300 ml | O | H2O
reactant | N-methylpyrrolidone | 300 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(1,2,4-triazol-1-ylmethyl)-1-(4-chlorophenyl)-2-methyl-3-(2-chlorophenyl)-propenol | 85 g, 95% | N1(N=CN=C1)CC(C(=CC1=C(C=CC=C1)Cl)C)(O)C1=CC=C(C=C1)Cl | C19H17Cl2N3O
